US04931452
Preparation of 3-Fluoro-5-(1,1,2,2-tetrafluoroethoxy)-2-pyridinol
Sodium iodide (1.80 g, 12.0 mmol) and then chlorotrimethylsilane (1.5 ml, 11.8 mmol) were added to a solution of 3-fluoro-2-methoxy-5-(1,1,2,2-tetrafluoroethoxy)pyridine (1.65 g, 6.79 mmol) in 8 ml of acetonitrile with stirring and under nitrogen and the mixture was heated at reflux for 2 5 hours. It was then allowed to cool and was diluted with 20 ml of methylene chloride. The resulting solution was extracted with water and with saturated aqueous sodium hydroxide, dried over sodium sulfate, and concentrated by evaporation under reduced pressure to obtain the title compound as a solid. This was recrystallized from toluene to obtain 0.95 g of the product as a white solid. The proton nmr spectrum was consistent with the assigned structure.

reactant | Sodium iodide | 12.0 mmol, 1.80 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 11.8 mmol, 1.5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-fluoro-2-methoxy-5-(1,1,2,2-tetrafluoroethoxy)pyridine | 6.79 mmol, 1.65 g | FC=1C(=NC=C(C1)OC(C(F)F)(F)F)OC | C8H6F5NO2
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-5-(1,1,2,2-tetrafluoroethoxy)-2-pyridinol | FC=1C(=NC=C(C1)OC(C(F)F)(F)F)O | C7H4F5NO2
